US05167863
1.00 g of (2R,3R)-3-butoxy-2-butanol and 0.83 g of triethylamine were dissolved in 10 ml of dichloromethane. Thereto was dropwise added 0.94 g of methanesulfonyl chloride with ice-cooling. The mixture was stirred overnight at room temperature. The mixture was poured into water and extracted with dichloromethane. The organic layer was washed with dilute hydrochloric acid and an aqueous sodium bicarbonate solution in this order, and then dried and concentrated under reduced pressure. The residue was subjected to Kugel-rohr distillation (1 mmHg) to obtain 1.30 g of (2R,3R)-3-butoxy-2-butyl methanesulfonate.

reactant | (2R,3R)-3-butoxy-2-butanol | 1.00 g | C(CCC)O[C@@H]([C@@H](C)O)C | C8H18O2
reactant | triethylamine | 0.83 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.94 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2R,3R)-3-butoxy-2-butyl methanesulfonate | 1.30 g | CS(=O)(=O)O[C@H](C)[C@@H](C)OCCCC | C9H20O4S
